US04724237
Preparation of 1-methyl-2-(1H-indol-3-yl)methylcarbonylaminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine hydrate
According to the method of Example 1, 1-methyl-2-aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine (250 mg, 0.88 mmole) and indole-3-acetic acid (154 mg, 0.88 mmole) were combined with 4 ml of dry methylene chloride, and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (169 mg, 0.88 mmole) was added to this mixture. After pH-adjustment, overnight stirring, dilution and washing, rotoevaporation of the dried extracts of the reaction afforded 290 mg of an oil which was purified by silica gel chromatography (ethyl acetate elution) to give material which was 70% pure by HPLC. Rechromatography (chloroform-ethanol elution, 95:5 v/v) afforded the analytical sample, 93% pure, as a yellow solid.

reactant | 1-methyl-2-aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.88 mmole, 250 mg | CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CN | C17H18FN3
reactant | indole-3-acetic acid | 0.88 mmole, 154 mg | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.88 mmole, 169 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-2-(1H-indol-3-yl)methylcarbonylaminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine hydrate | 290 mg | O.CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CNC(=O)CC2=CNC1=CC=CC=C21 | InChI=1S/C27H25FN4O.H2O/c1-32-19(16-30-26(33)14-18-15-29-24-12-6-3-8-20(18)24)17-31-27(21-9-2-5-11-23(21)28)22-10-4-7-13-25(22)32;/h2-13,15,19,29H,14,16-17H2,1H3,(H,30,33);1H2
